US04152326
In a manner analogous to that described in Example 1, by the reaction of hydroxylamine with 1,1-cyclopentane-diacetic anhydride, there was obtained 1,1-cyclopentane-diacetic acid N-hydroxyimide (m.p. 70°-74° C.) which, by acylation with benzene-sulphonyl chloride, was converted into benzene-sulphonyloxy-1,1-cyclopentane-diacetic acid imide (m.p. 133°-136° C.).

reactant | hydroxylamine | NO | H3NO
reactant | 1,1-cyclopentane-diacetic anhydride | C12(CCCC1)CC(=O)OC(C2)=O | C9H12O3
product | 1,1-cyclopentane-diacetic acid N-hydroxyimide | ON=C(CC1(CCCC1)CC(=O)O)O | C9H15NO4
